US04022833
In a manner similar to that of Example 1, condensation of 1-dodecene oxide (50 g.) and hexamethylenediamine (15.8 g.) and recrystallization of the resulting product from ethanol gave N,N'-(1,6-hexylene)-bis[2-hydroxydodecylamine] (I: R= CH3 (CH2)9, R' = H, X= (CH2)6, Z= H) (35 g., m.p. 123.6°-128.0° C.).

reactant | 1-dodecene oxide | 50 g | C1C(CCCCCCCCCC)O1 | C12H24O
reactant | hexamethylenediamine | 15.8 g | NCCCCCCN | C6H16N2
solvent | ethanol | C(C)O | C2H6O
product | N,N'-(1,6-hexylene)-bis[2-hydroxydodecylamine] | C(CCCCCNCC(CCCCCCCCCC)O)NCC(CCCCCCCCCC)O | C30H64N2O2
